US08012966B2
3-Methyl-2-(4-methyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-methyl-1,3-dihydro-indol-2-one (prepared according to U.S. Pat. No. 6,114,371) as starting materials to give 3-methyl-2-(4-methyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (32 mg, 62.8%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | 4-methyl-1,3-dihydro-indol-2-one | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
product | 3-methyl-2-(4-methyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 32 mg, 62.8% | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=C2C(NC1=CC=CC(=C21)C)=O | C24H28N4O2
